US07713994B2
(4E)-6-Bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (0.21 g, 0.76 mmol) and 4-(2-dimethylamino-ethylsulfanyl)-phenylamine (0.15 g, 0.76 mmol) were stirred in N,N-dimethylformamide (5 mL) and triethylamine (0.3 mL) at 60-70° C. for 5 minutes and then at room temperature for 10 minutes. The reaction mixture is quenched by the addition of water. The solid material is then collected, washed with diethyl ether, water, and methanol, and then dried under vacuum to give (4Z)-6-bromo-4-{[(4-{[2-(dimethylamino)ethyl]thio}phenyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione (0.22 mg, 65%) as a golden powder.

reactant | (4E)-6-Bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.76 mmol, 0.21 g | BrC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8BrNO3
reactant | 4-(2-dimethylamino-ethylsulfanyl)-phenylamine | 0.76 mmol, 0.15 g | CN(CCSC1=CC=C(C=C1)N)C | C10H16N2S
reactant | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (4Z)-6-bromo-4-{[(4-{[2-(dimethylamino)ethyl]thio}phenyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione | 0.22 mg, 65% | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC1=CC=C(C=C1)SCCN(C)C | C20H20BrN3O2S
